US04714774
A mixture of 2,4-dihydroxy-3-propylacetophenone (2.7 g), 1,3-dibromopropane (2.8 ml) and potassium carbonate (1.9 g) in acetone (50 ml) was refluxed for 3 hours. Insoluble materials were filtered off, and the filtrate was concentrated. The resulting syrup was purified by means of a silica gel flash chromatography (chloroform-hexane=1:1) to give 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl bromide (2.9 g) as colorless and transparent syrup.

reactant | 2,4-dihydroxy-3-propylacetophenone | 2.7 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | 1,3-dibromopropane | 2.8 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl bromide | 2.9 g | C(C)(=O)C1=C(C(=C(OCCCBr)C=C1)CCC)O | C14H19BrO3
